US04952591
N-(4-Methoxyphenyl)-N'-[3-(3-piperidinomethylphenoxy)propyl]urea
To the mixture of 3-(3-piperidinomethylphenoxy)propylamine (3.1 g) in ethanol (31 ml) was added 4-methoxyphenylisocyanate (1.9 g) dropwise slowly under cooling on an ice-water bath. The reaction mixture was stirred at room temperature for 2.5 hours and then concentrated under reduced pressure. The resulting residue was dissolved in dichloromethane (50 ml), washed with diluted hydrochloric acid, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution successively and dried over anhydrous magnesium sulfate. After removal of the solvent under reduced pressure, the crude product (3.3 g) was obtained (yield 66.0 %). This crude product was recrystallized from ethanol to give the title compound (2.1 g), mp 111°-112° C.

reactant | 3-(3-piperidinomethylphenoxy)propylamine | 3.1 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 4-methoxyphenylisocyanate | 1.9 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | ethanol | 31 ml | C(C)O | C2H6O
product | N-(4-Methoxyphenyl)-N'-[3-(3-piperidinomethylphenoxy)propyl]urea | 2.1 g, yield 66.0 % | COC1=CC=C(C=C1)NC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H31N3O3
